US09260375B2
2-(4-Carbamoylbenzyl)-3-isopropylmaleic acid dimethyl ester
To a solution of 2-(4-carboxybenzyl)-3-isopropylmaleic acid dimethyl ester (7.8 mg, 0.024 mmol) in tetrahydrofuran (400 μL) were added a 0.5 M ammonia-dioxane solution (600 μL) and 4-(4,6-dimethoxy-1,3,5-triazin-2-yl)-4-methylmorpholinium chloride (14.8 mg, 0.0535 mmol), and the mixture was stirred at room temperature for 4 h. The reaction mixture was directly concentrated under reduced pressure and the residue thus obtained was subjected to silica gel column chromatography (hexane-ethyl acetate 1:4) to give 7.0 mg of the title compound as a solid (yield: 90%).

reactant | 2-(4-carboxybenzyl)-3-isopropylmaleic acid dimethyl ester | 0.024 mmol, 7.8 mg | COC(\C(=C(/C(=O)OC)\C(C)C)\CC1=CC=C(C=C1)C(=O)O)=O | C17H20O6
reactant | ammonia dioxane | 0.5 M, 600 μL | N.O1CCOCC1
reactant | 4-(4,6-dimethoxy-1,3,5-triazin-2-yl)-4-methylmorpholinium chloride | 0.0535 mmol, 14.8 mg | [Cl-].COC1=NC(=NC(=N1)OC)[N+]1(CCOCC1)C
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | tetrahydrofuran | 400 μL | O1CCCC1 | C4H8O
product | 2-(4-Carbamoylbenzyl)-3-isopropylmaleic acid dimethyl ester | 7.0 mg, yield: 90% | COC(\C(=C(/C(=O)OC)\C(C)C)\CC1=CC=C(C=C1)C(N)=O)=O | C17H21NO5
